US07279580B2
Hünig's base (0.44 ml, 3.8 mmol) and triethylsilyl trifluoromethanesulfonate (0.57 ml, 2.6 mmol) were added sequentially to a cold (−78° C.), stirred solution of 2-(3-bromo-8-fluoroimidazo[1,2-α]pyridin-7-yl)propan-2-ol (637 mg, 2.3 mmol) in CH2Cl2 (13 ml) and the solution warmed to ambient temperature. The mixture was partitioned between CH2Cl2 (50 ml) and water (50 ml) and the organic phase dried over anhydrous MgSO4, filtered through a short plug of silica (eluent CH2Cl2) and concentrated to afford 3-bromo-8-fluoro-7-[2-(triethylsilyloxy)prop-2-yl]imidazo[1,2-α]pyridine (906 mg, quant.): δH (360 MHz, CDCl3) 0.70 (6H, q, J 7.8), 0.99 (9H, t, J 7.8), 1.71 (6H, s), 7.32 (1H, t, J 6.9), 7.59 (1H, s), 7.88 (1H, d, J 7.3).

reactant | Hünig's base | 3.8 mmol, 0.44 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | triethylsilyl trifluoromethanesulfonate | 2.6 mmol, 0.57 ml | FC(S(=O)(=O)O[Si](CC)(CC)CC)(F)F | C7H15F3O3SSi
reactant | 2-(3-bromo-8-fluoroimidazo[1,2-α]pyridin-7-yl)propan-2-ol | 2.3 mmol, 637 mg | BrC1=CN=C2N1C=CC(=C2F)C(C)(C)O | C10H10BrFN2O
solvent | CH2Cl2 | 13 ml | C(Cl)Cl | CH2Cl2
product | 3-bromo-8-fluoro-7-[2-(triethylsilyloxy)prop-2-yl]imidazo[1,2-α]pyridine | 906 mg | BrC1=CN=C2N1C=CC(=C2F)C(C)(C)O[Si](CC)(CC)CC | C16H24BrFN2OSi
